US08022075B2
2-Amino-6-bromobenzothiazole (34)
A solution of N-(4-bromophenyl)thiourea (16.18 g) and magnesium oxide (1.41 g) in chlorobenzene (100 mL) was heated to 50° C., and a solution of sulfuryl chloride (8.43 mL) in chlorobenzene (9 mL) was added dropwise to the solution over 1 hour or longer, followed by stirring at 50° C. overnight. The reaction mixture was returned to room temperature, and water (20 mL) was added thereto. The pH of the mixture was adjusted to about 8 by use of concentrated aqueous ammonia, and the precipitates were recovered through filtration. The obtained solid was recrystallized from 90% ethanol, to thereby yield the title compound (7.95 g).

reactant | N-(4-bromophenyl)thiourea | 16.18 g | BrC1=CC=C(C=C1)NC(=S)N | C7H7BrN2S
reactant | magnesium oxide | 1.41 g | [O-2].[Mg+2]
reactant | sulfuryl chloride | 8.43 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ammonia | N | H3N
solvent | chlorobenzene | 100 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 9 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | 20 mL | O | H2O
product | 2-Amino-6-bromobenzothiazole | 7.95 g | NC=1SC2=C(N1)C=CC(=C2)Br | C7H5BrN2S
